Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Vertigo not improved with fluids 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ M with no prior medical contact presenting after episode of
dizziness and fall.

Patient interviewed with ___ interpreter
Patient says he was at work last night washing dishes when he 
had
acute onset room spinning vertigo. The dizziness came on 
suddenly
and it felt like he was spinning to the right. He endorses
horizontal double vision at this time that has now resolved.  He
has double vision lasted for a long time but is unable to tell 
me
exactly how long.  He endorses almost falling over but a friend
caught him before he hit the ground, he denies any loss of
consciousness but says that he felt like he was going to pass
out.  He was very nauseous and threw up.  He was also unable to
walk time so he was brought into the emergency room for
evaluation.  On initial evaluation his symptoms were thought to
be most likely due to peripheral vertigo and he was given fluids
and meclizine but due to persistence of symptoms and inability 
to
walk without feeling dizzy neurology was consulted.

He was seen yesterday in urgent care for a left thumb laceration
that he received while working required sutures.  At this time 
he
was noted to have elevated blood pressure but is not recorded
with a blood pressure actually was.  On arrival to our ED blood
pressure was elevated to systolics of 180.  He does endorse not
eating much during the day yesterday but otherwise felt in his
usual state of health.

He has never had any symptoms like this before.  He denies any
systemic symptoms associated with the onset of the room spinning
vertigo.  Specifically he denies any chest pain, palpitations,
shortness of breath, diaphoresis, lightheadedness.  He also
denies any changes in hearing, tinnitus, sensation of ear
fullness, cuts in his vision or any other visual difficulties
other than that episode of double vision initially.  He denies
any recent upper respiratory infection.

 
On neuro ROS, pertinent positives per HPI, currently the pt
denies headache, loss of vision, blurred vision, diplopia,
dysarthria, dysphagia, tinnitus or hearing difficulty. Denies
difficulties producing or comprehending speech.  Denies focal
weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the pt denies recent fever or
chills.  No night sweats or recent weight loss or gain. Denies
cough, shortness of breath.  Denies chest pain or tightness,
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or
abdominal pain.  No recent change in bowel or bladder habits.  
No
dysuria.  Denies arthralgias or myalgias. Denies rash.
 
Past Medical History:
He was told that he has slightly high blood pressure, but he had 
not been started on antihypertensives yet. 
 
Social History:
___
Family History:
Mother: diabetes
High cholesterol 
no strokes in family as far as he is aware  
 
Physical Exam:
Admission Physical Exam:
Vitals: Temp 98.3, HR 76, BP 156/94 (___), RR19, 98%
RA

General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Normal work of breathing
Cardiac: no murmurs appreciated, warm, ___
Abdomen: soft, ___
Extremities: No ___ edema.
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x 3 (mass, hospital though 
unable
to say which city he is in), Able to relate history without
difficulty. Attentive, able to name ___ backward though mixes up
___ and ___. Language is fluent with intact repetition and
comprehension. Normal prosody. There were no paraphasic errors.
Pt was able to name both high and low frequency objects except
unable to name cactus,  Speech was not dysarthric. Able to 
follow
both midline and appendicular commands. Pt was able to register 
3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI with left
beating nystagmus at primary gaze, and all other directions of
gaze, nystagmus increases with left gaze becomes less prominent
with right gaze,   VFF to confrontation.  No skew deviation, 
head
impulse test is difficult to see given his persistent nystagmus
though he does appear to have a corrective saccade with head
impulse in the right, ___ does not reproduce symptoms
the patient has nystagmus though he persistently has nystagmus
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with ___ testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5     5     5   
R  5    ___   ___    5    5     5     5   

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibration and proprioception mildly decreased in his toes
bilaterally. No extinction to DSS. Romberg absent but with
significant sway 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: Intention tremor bilaterally, no dysmetria or
overshoot on ___ or ___ testing
bilaterally, patient had normal finger tapping bilaterally, and
no dysdiadochokinesia noted, with eyes closed sitting on the 
side
of the bed he does lean to the right slightly

-Gait: Good initiation. mildly wide based, able to walk without
assistance, unable to tandem walk, able to stand with feet
together. 
Walking in place with eyes closed mildly turns to right but gets
very dizzy doing this

Discharge Physical Exam:
Neurologic:
-Mental Status: Alert, oriented x 3. Attentive, speaks in full 
sentences without paraphasic errors (using Portugese interpreter 
over the phone). Speech was not dysarthric. No evidence of 
apraxia neglect. 

-Cranial Nerves:
PERRL 3 to 2mm and brisk. EOMI with left beating rotatory 
nystagmus on left gaze, slightly on upgaze and downgaze, 
resolved on right gaze. VFF to confrontation. No skew deviation.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to ___ bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with ___ testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5    5     5     5   
R  5    ___   ___    5    5     5     5   

-Sensory: No deficits to light touch throughout. No extinction 
to DSS. Romberg absent, no sway.  

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No ataxia on FNF bilaterally. Rapid finger 
tapping bilaterally. HKS without ataxia. 

-Gait: Good initiation. Narrow based gait, can toe walk and heel 
walk. His tandem gait is not perfectly heel to toe, but it is 
improved from prior days.  
 
Pertinent Results:
MRI brain ___

IMPRESSION:
 
 
1. There is no evidence of acute intracranial process or 
hemorrhage.
2. Mild periventricular and subcortical white matter signal 
changes,
nonspecific and possibly sequelae of chronic small vessel 
disease.
3. Mild tortuosity of the basilar artery.
4. Paranasal sinus disease as above.

MRI brain ___
INDICATION:  ___ year old man with persistent nystagmus and gait
unsteadiness.// r/o acute ischemic stroke; with thin cuts thru 
the brainstem
 
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After
administration of intravenous contrast, axial imaging was 
performed with
gradient echo, FLAIR, diffusion, and T1 technique. Sagittal 
MPRAGE imaging was
performed and ___ in axial and coronal orientations.
 
COMPARISON:  Brain MR ___.
 
FINDINGS: 
 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.   The ventricles and sulci are normal in caliber 
and
configuration.  There is no abnormal enhancement after contrast
administration.  There is mucosal thickening in the paranasal 
sinuses with no
fluid detected.
 
IMPRESSION:
 
 
1. Mild paranasal sinus inflammatory changes.  Otherwise normal 
study.
 
Brief Hospital Course:
___ is a ___ year old man with a past medical 
history of hypertension (not treated as he recently moved to the 
___) who presented to the ED with acute onset vertigo on ___. 

#Vertigo, peripheral in nature
Vertigo was constant in nature from onset with room spinning to 
the right, and resolved in the ED with fluids and Compazine. He 
was given aspirin 325mg x1 in the ED and then started on aspirin 
81mg daily due to concern for TIA. Patient was admitted to the 
stroke neurology service, and MRI brain was completed which did 
not reveal any ischemic process. Given the long duration of 
symptoms, we would expect to see evidence of ischemia on MRI. 
Symptoms of unsteady gait persisted, and patient was monitored 
overnight, and MRI brain with and without contrast with thin 
cuts through the brainstem was repeated. Fortunately, it did not 
reveal any stroke or abnormal enhancement. On ___, there was 
resolution of unsteady gait, though nystagmus continued but was 
less prominent. We did not continue aspirin on discharge since 
symptoms attributed most likely to a peripheral vestibulitis. We 
would like to follow up with patient in general neurology clinic 
once to ensure continued resolution of symptoms. 

#Hypertension
Blood pressures remained <160 without intervention, except for 
one spike to 180 which resolved. We initiated amlodipine 5mg 
daily for improved blood pressure control. Patient should 
continue to follow up with PCP for blood pressure control. To 
find a PCP, he can call Health Care Associates at ___ at 
___. We sent a prescription for amlodipine to ___ 
in ___, which we confirmed patient can afford ($10 for 3 
months). 

#Hyperlipidemia 
LDL 203 on admission, initiated atorvastatin 40mg QHS. Patient 
will need to follow up with PCP to ___ cholesterol. We sent 
a prescription for patient to ___ in ___, which we 
confirmed patient can afford ($24 for 3 months).

Transitional issues:
[ ] Please monitor the patient's A1c, LDL, and blood pressure 
regularly.
[ ] PCP appointment - call ___ to schedule. 
[ ] Follow up with general neurology; we have called to schedule 
this appointment, but appointment pending at time of discharge. 
Patient given contact information to call.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atorvastatin 40 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Peripheral vestibulitis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___, 

You were admitted for your symptoms of dizziness, which was 
likely due to peripheral vestibulitis, which is an inflammation 
of one of the nerves that control hearing and balance. A stroke, 
in which a blood vessel supplying nutrients different parts of 
the brain, can also cause similar symptoms. However, in your 
case, stroke was ruled out by brain imaging. 

You were found to have HIGH CHOLESTEROL, HIGH BLOOD PRESSURE, 
and ___, which puts you at risk for developing the full 
DIABETES. All of these can increase the risk of stroke and heart 
attack in the future. 

We are prescribing these medications:

Please follow up outpatient as listed below. 

If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:
- Sudden partial or complete loss of vision
- Sudden loss of the ability to speak words from your mouth
- Sudden loss of the ability to understand others speaking to 
you
- Sudden weakness of one side of the body
- Sudden drooping of one side of the face
- Sudden loss of sensation of one side of the body

Sincerely,
Your ___ Neurology Team
 
Followup Instructions:
___